US05059614
b) Preparation of 2,6-dimethyl benzyl phthalimide
10 g (0.073 mole) of the preceding alcohol are dissolved in 300 ml of THF and 13.3 g (0.09 mole) of phthalimide are added followed by 22.9 g (0.087 mole) of triphenylphosphine and then 13.9 ml of diethylazodicarboxylate are added dropwise. The temperature rises to 45°. The mixture is then left to stand for 24h under nitrogen. The reaction mixture is concentrated and the residue is purified on a column of silica (eluent CH2Cl2). M.p.=154°. Yield: 92.7%.

reactant | phthalimide | 0.09 mole, 13.3 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 0.087 mole, 22.9 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 13.9 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | THF | 300 ml | C1CCOC1 | C4H8O
product | 2,6-dimethyl benzyl phthalimide | Yield: 92.7% | CC1=C(CC2=C3C(C(=O)NC3=O)=CC=C2)C(=CC=C1)C | C17H15NO2
